US05028604
To a solution of 1.45 g of 3-(2-indanylacetyl)-L-thioproline ethyl ester prepared in Reference Example 1 in 17 ml of ethanol was added 28 ml of 1 N sodium hydroxide, and the mixture was stirred at room temperature. After 1 hour, ethanol was evaporated under reduced pressure. Twenty (20) ml of water was added to the residue and the solution was washed with ethyl acetate. The water layer was acidified with the addition of diluted hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate. After evaporation of the solvent under reduced pressure, the residue was recrystallized from a mixed solvent of ethyl acetate and n-hexane to produce 0.76 g of 3-(2-indanylacetyl)-L-thioproline (yield: 57%).

reactant | 3-(2-indanylacetyl)-L-thioproline ethyl ester | 1.45 g | C(C)OC([C@H]1NCSC1C(CC1CCC2=CC=CC=C12)=O)=O | C17H21NO3S
reactant | sodium hydroxide | 1 N, 28 ml | [OH-].[Na+]
solvent | ethanol | 17 ml | C(C)O | C2H6O
product | 3-(2-indanylacetyl)-L-thioproline | 0.76 g, yield: 57% | C1(CCC2=CC=CC=C12)CC(=O)C1[C@H](NCS1)C(=O)O | C15H17NO3S
